US05932745
2-(3-Dimethylamino-prop-1-ynyl)-phenol
To a deoxygenated solution of o-bromophenol (10.0 g) in triethylamine (120 ml) may be added 1-dimethylamino-2-propyne (2.82 g), bis(triphenylphosphine)palladium(II) chloride (400 mg), and cuprous iodide (54 mg). The mixture may be stirred at room temperature under an atmosphere of argon for approximately 6 hours, heated briefly (ca. 10 minutes) to 60° C. The reaction mixture is then cooled, filtered through diatomaceous earth, and the solvent may be removed by evaporation in vacuo. The residue can then be dissolved in ethyl acetate, washed three times with water, once with saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate. The solvent may be removed by evaporation in vacuo, and the residue may be purified by chromatography over silica gel (50% ethyl acetate in hexanes may be used as the eluant) to give the purified product.

reactant | o-bromophenol | 10.0 g | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | 1-dimethylamino-2-propyne | 2.82 g | CN(CC#C)C | C5H9N
solvent | triethylamine | 120 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) chloride | 400 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(3-Dimethylamino-prop-1-ynyl)-phenol | CN(CC#CC1=C(C=CC=C1)O)C | C11H13NO
